US08445509B2
Production of 1-(2-bromo-4-fluorophenyl)-N-[4-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)-3-fluorophenyl]-6-methyl-2-oxo-1,2-dihydropyridine-3-carboxamide
A mixture of N-[6-(4-amino-2-fluorophenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide (150 mg, 0.459 mmol), 1-(2-bromo-4-fluorophenyl)-6-methyl-2-oxo-1,2-dihydropyridine-3-carboxylic acid (146 mg, 0.448 mmol), HATU (262 mg, 0.689 mmol), N,N-diisopropylethylamine (160 μl, 0.919 mmol) and N,N-dimethylformamide (3 mL) was stirred at room temperature for 3 days. After dilution with ethyl acetate, the mixture was washed with saturated aqueous sodium hydrogen carbonate solution and saturated brine, dried over anhydrous magnesium sulfate and filtered. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (NH silica gel, 30 g, ethyl acetate/hexane=2/98→100/0) and preparative HPLC (acetonitrile/water=40/60→50/50, containing 0.1% trifluoroacetic acid) to give the title compound (152 mg, 52%) as a white solid.

reactant | N-[6-(4-amino-2-fluorophenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide | 0.459 mmol, 150 mg | NC1=CC(=C(OC=2C=CC=3N(C2)C=C(N3)NC(=O)C3CC3)C=C1)F | C17H15FN4O2
reactant | 1-(2-bromo-4-fluorophenyl)-6-methyl-2-oxo-1,2-dihydropyridine-3-carboxylic acid | 0.448 mmol, 146 mg | BrC1=C(C=CC(=C1)F)N1C(C(=CC=C1C)C(=O)O)=O | C13H9BrFNO3
reactant | HATU | 0.689 mmol, 262 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 0.919 mmol, 160 μl | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | 1-(2-bromo-4-fluorophenyl)-N-[4-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)-3-fluorophenyl]-6-methyl-2-oxo-1,2-dihydropyridine-3-carboxamide | 152 mg, 52% | BrC1=C(C=CC(=C1)F)N1C(C(=CC=C1C)C(=O)NC1=CC(=C(C=C1)OC=1C=CC=2N(C1)C=C(N2)NC(=O)C2CC2)F)=O | C30H22BrF2N5O4
